US05246948
iv) Synthesis of 1,2-bis[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene dihydrochlorid
To a solution of 840 mg (1.53 mmol) of 1,2-bis[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene in 20 ml of methanol, 80 ml of 10% hydrochloric acid/methanol was added, and the mixture was stirred for 30 minutes. The solvent was distilled off and the residue was recrystallized from ethanol/ether to give 707 mg of the desired product (74.1% yield, pale yellow crystals).

reactant | 1,2-bis[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene | 1.53 mmol, 840 mg | N1=CC=C(C=C1)SCCCCN(C(CC)=O)C1=C(C=CC=C1)N(CCCCSC1=CC=NC=C1)C(CC)=O | C30H38N4O2S2
reactant | hydrochloric acid methanol | 80 ml | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 1,2-bis[N-[4-(4-pyridylthio)butyl]-N-propionylamino]benzene dihydrochlorid | 707 mg, 74.1% yield | Cl.Cl.N1=CC=C(C=C1)SCCCCN(C(CC)=O)C1=C(C=CC=C1)N(CCCCSC1=CC=NC=C1)C(CC)=O | InChI=1S/C30H38N4O2S2.2ClH/c1-3-29(35)33(21-7-9-23-37-25-13-17-31-18-14-25)27-11-5-6-12-28(27)34(30(36)4-2)22-8-10-24-38-26-15-19-32-20-16-26;;/h5-6,11-20H,3-4,7-10,21-24H2,1-2H3;2*1H
